US04863504
2. Preparation of (E)-2-[1-(3-chloro-2-propenyloxyimino)propyl]-5-(1,3-dimethyl-1H-pyrazol-4-yl)-cyclohexane-1,3-dione (Compound No. 3)
In 20 ml of ethanol was dissolved 2.62 g (10 mmols) of 5-(1,3-dimethyl-1H-pyrazol-4-yl)-2-propionylcyclohexane-1,3-dione and, 30 ml (12 mmols) of 0.4 mol ethanolic solution of (E)-3-chloro-2-propenyloxyamine was added to the solution. The mixture was reacted for 8 hours with stirring. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform:methanol=50:1) to give 3.21 g of the product.

reactant | 5-(1,3-dimethyl-1H-pyrazol-4-yl)-2-propionylcyclohexane-1,3-dione | 10 mmols, 2.62 g | CN1N=C(C(=C1)C1CC(C(C(C1)=O)C(CC)=O)=O)C | C14H18N2O3
reactant | (E)-3-chloro-2-propenyloxyamine | Cl/C=C/CON | C3H6ClNO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (E)-2-[1-(3-chloro-2-propenyloxyimino)propyl]-5-(1,3-dimethyl-1H-pyrazol-4-yl)-cyclohexane-1,3-dione | 3.21 g, Yield 91.2% | ClC=CCO\N=C(/CC)\C1C(CC(CC1=O)C=1C(=NN(C1)C)C)=O | C17H22ClN3O3
